US07119102B2
Trifluoro-methanesulfonic acid 6-carbamoylmethylsulfanyl-5-cyano-4-ethyl-pyridin-2-yl ester
2-(3-Cyano-4-isopropyl-6-oxo-1,6-dihydro-pyridin-2-ylsulfanyl)-acetamide (4.62 g, 18.4 mmol) and N-phenyltrifluoromethanesulfonimide (7.00 g, 19.4 mmol) were suspended/dissolved in 100 mL of dichloromethane. Diisopropylethylamine (4.00 mL, 22.7 mmol) was added. This mixture was stirred at room temperature for 4 h. Trifluoro-methanesulfonic acid 6-carbamoylmethylsulfanyl-5-cyano-4-isopropyl-pyridin-2-yl ester was collected by filtration and washed with dichloromethane providing 4.64 g (66%). (ES+ 384 m/z (MH+). The title compound was prepared using a method analogous to that described in Example 13.

reactant | 2-(3-Cyano-4-isopropyl-6-oxo-1,6-dihydro-pyridin-2-ylsulfanyl)-acetamide | 18.4 mmol, 4.62 g | C(#N)C1=C(NC(C=C1C(C)C)=O)SCC(=O)N | C11H13N3O2S
reactant | N-phenyltrifluoromethanesulfonimide | 19.4 mmol, 7.00 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | Diisopropylethylamine | 22.7 mmol, 4.00 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | Trifluoro-methanesulfonic acid 6-carbamoylmethylsulfanyl-5-cyano-4-ethyl-pyridin-2-yl ester | C(N)(=O)CSC1=C(C(=CC(=N1)OS(=O)(=O)C(F)(F)F)CC)C#N | C11H10F3N3O4S2
